US04301287
(f) 4,5,6,7-Tetrahydroisoxazolo[5,4-c]pyridin-3-ol zwitterion (Ia)
To a solution of 3-hydroxy-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridinium bromide (77 mg; 0.35 mmol) in water (0.6 ml) was added a solution of triethylamine (39 mg; 0.39 mmol) in ethanol (0.6 ml). The mixture was left at 25° C. for 2 hours. Ia (42 mg; 86%) was isolated as colourless crystals, m.p. 242°-244° C. (decomp.). IR (KBr): 3700-2900 (s), 2900-1900 (several bands, m-s), 1670 (s), 1625 (m) cm-1. UV [methanol (log ε)]: 212 (3.64) nm. pKA values (H2O, 25° C.): 4.44±0.03, 8.48±0.04.

reactant | 3-hydroxy-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridinium bromide | 0.35 mmol, 77 mg | [Br-].OC1=[NH+]OC=2CNCCC21
reactant | triethylamine | 0.39 mmol, 39 mg | C(C)N(CC)CC | C6H15N
reactant | KBr | [K+].[Br-]
reactant | methanol | CO | CH4O
solvent | water | 0.6 ml | O | H2O
solvent | ethanol | 0.6 ml | C(C)O | C2H6O
product | 4,5,6,7-Tetrahydroisoxazolo[5,4-c]pyridin-3-ol | O1N=C(C2=C1CNCC2)O | C6H8N2O2
